US08067445B2
Step 4: Trifluoro-methanesulfonic acid 2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-methanesulfonyl-phenyl ester
Ethyl-(2-hydroxy-5-methanesulfonyl-benzyl)-carbamic acid benzyl ester (0.200 g, 0.55 mmol) and diisopropylethylamine (0.24 mL, 1.38 mmol) were combined in CH2Cl2 (10 mL). Trifluoromethanesulfonic anhydride (0.11 mL, 0.65 mmol) was added, and the reaction was stirred for 5 minutes at room temperature. The mixture was quenched with H2O and diluted with CH2Cl2. The organic layer was dried, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | Ethyl-(2-hydroxy-5-methanesulfonyl-benzyl)-carbamic acid benzyl ester | 0.55 mmol, 0.200 g | C(C1=CC=CC=C1)OC(N(CC1=C(C=CC(=C1)S(=O)(=O)C)O)CC)=O | C18H21NO5S
reactant | diisopropylethylamine | 1.38 mmol, 0.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Trifluoromethanesulfonic anhydride | 0.65 mmol, 0.11 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-methanesulfonyl-phenyl ester | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)S(=O)(=O)C)OS(=O)(=O)C(F)(F)F | C19H20F3NO7S2
